US08729112B2
(R)-2-methyl-N-(4,4,4-trifluorobutan-2-ylidene)propane-2-sulfinamide
To a solution of 4,4,4-trifluorobutan-2-one (12 g, 95 mmol) in THF (150 ml) was added titanium (IV) isopropoxide (42 ml, 142 mmol) and (R)-tert-butanesulfinamide (17.3 g, 142 mmol). The solution was heated to reflux for 22 h, cooled to RT, and poured into a vigorously-stirred brine solution. The mixture was filtered through a pad of Celite, the filter cake washed with EtOAc, and the filtrate separated. The aqueous layer was extracted with EtOAc, the organic layers combined and washed with brine, dried on Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography (15% to 60% EtOAc in hexanes) to afford the title compound as a yellow oil (14.0 g, 65%). 1H NMR (CDCl3, 400 MHz) δ 1.25 (s, 9H), 2.45 (s, 3H), 3.19 (q, J=14.4 Hz, 2H). 19F NMR (CDCl3, 376 MHz) δ −61.03 (t, J=10.5 Hz), −62.8 (t, J=10.5 Hz).

reactant | 4,4,4-trifluorobutan-2-one | 95 mmol, 12 g | FC(CC(C)=O)(F)F | C4H5F3O
reactant | (R)-tert-butanesulfinamide | 142 mmol, 17.3 g | C(C)(C)(C)[S@@](=O)N | C4H11NOS
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
catalyst | titanium (IV) isopropoxide | 142 mmol, 42 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (R)-2-methyl-N-(4,4,4-trifluorobutan-2-ylidene)propane-2-sulfinamide | 14.0 g, 65% | CC(C)(C)[S@@](=O)N=C(C)CC(F)(F)F | C8H14F3NOS
